US04178293
A mixture of 3,4,5,6-tetrafluoro-1,2-bis(bromomethyl)benzene (3 g, 9 mmol), valine (1 g, 9 mmol), potassium carbonate (2.8 g) and 25 ml THF/HMPT (1:1) is stirred for about 24 hours at RT (the reaction is followed by TLC). The reaction mixture is then diluted with 100 ml aqueous 10% KOH and extracted three times with ether. The aqueous phase is acidified to about pH 3 with aqueous HCl and extracted thoroughly with ether. The organic layer is washed with water, dried and solvent removed under vacuum to give 2-(4,5,6,7-tetrafluoro-2-isoindolinyl)-3-methylbutanoic acid.

reactant | 3,4,5,6-tetrafluoro-1,2-bis(bromomethyl)benzene | 9 mmol, 3 g | FC=1C(=C(C(=C(C1F)F)F)CBr)CBr | C8H4Br2F4
reactant | valine | 9 mmol, 1 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | THF HMPT | 25 ml | C1CCOC1.CN(C)P(=O)(N(C)C)N(C)C
solvent | KOH | [OH-].[K+]
product | 2-(4,5,6,7-tetrafluoro-2-isoindolinyl)-3-methylbutanoic acid | FC1=C2CN(CC2=C(C(=C1F)F)F)C(C(=O)O)C(C)C | C13H13F4NO2
